US08106232B2
a. (S)-4-((2S,3S)-7-Carbamoyl-1,1-diethyl-3-methoxy-1,2,3,4-tetrahydro-naphthalen-2-ylamino)-2-cyclohexylmethyl-butyric acid methyl ester
To a slurry of sodium (S)-4-cyclohexyl-1-hydroxy-3-methoxycarbonyl-butane-1-sulfonate (25.8 g, 81.5 mmol) and 2-methyl-tetrahydro-furan (300 mL) was added 1.0 M NaOH in water (76.1 mL) and the reaction mixture was stirred for 20 min at RT. To the reaction mixture was added (6S,7S)-7-Amino-8,8-diethyl-6-methoxy-5,6,7,8-tetrahydro-naphthalene-2-carboxylic acid amide hydrochloride (17.0 g, 54.3 mmol); the reaction mixture was stirred for 40 min at RT, sodium triacetoxyborohydride (46.1 g, 217 mmol) was added in 4 portions. The reaction mixture was stirred at RT overnight after the first two portions. Water (200 mL) and MeTHF (100 mL) were added; the phases were separated and the organic layer was washed with 1 M NaOH (2×200 mL), diluted brine (200 mL) dried with Na2SO4 and solvent was removed to yield crude title intermediate (22 g) as a glassy yellow solid.

reactant | sodium (S)-4-cyclohexyl-1-hydroxy-3-methoxycarbonyl-butane-1-sulfonate | 81.5 mmol, 25.8 g | C1(CCCCC1)CC(C[C@H](S(=O)(=O)[O-])O)C(=O)OC.[Na+]
reactant | 2-methyl-tetrahydro-furan | 300 mL | CC1OCCC1 | C5H10O
reactant | NaOH | 1.0 M | [OH-].[Na+]
reactant | (6S,7S)-7-Amino-8,8-diethyl-6-methoxy-5,6,7,8-tetrahydro-naphthalene-2-carboxylic acid amide hydrochloride | 54.3 mmol, 17.0 g | Cl.N[C@@H]1[C@H](CC=2C=CC(=CC2C1(CC)CC)C(=O)N)OC
reactant | sodium triacetoxyborohydride | 217 mmol, 46.1 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | MeTHF | 100 mL | CC1CCCO1 | C5H10O
solvent | water | 76.1 mL | O | H2O
solvent | Water | 200 mL | O | H2O
product | (S)-4-((2S,3S)-7-Carbamoyl-1,1-diethyl-3-methoxy-1,2,3,4-tetrahydro-naphthalen-2-ylamino)-2-cyclohexylmethyl-butyric acid methyl ester | 22 g | COC([C@H](CCN[C@H]1C(C2=CC(=CC=C2C[C@@H]1OC)C(N)=O)(CC)CC)CC1CCCCC1)=O | C28H44N2O4
